US06936602B1
In dichloromethane (7 ml) were dissolved methyl 7-[4-(2-butoxyethoxy)phenyl]-2,3-dihydro-1H-1-benzazepine-4-carboxylate (0.2 g) and copper pivalate (0.04 g). To the solution was added tri(4-propoxyphenyl)bismuth diacetate (1.1 g), and the mixture was stirred at room temperature overnight, poured into 3N hydrochloric acid, stirred, neutralized with 1N sodium hydroxide solution and extracted with ethyl acetate. The organic layer was washed with water and saturated brine and dried with anhydrous magnesium sulfate. The solvent was evaporated and the residue was purified with silica gel column chromatography (ethyl acetate/hexane) to give methyl 7-[4-(2-butoxyethoxy)phenyl]-1-(4-propoxyphenyl)-2,3-dihydro-1H-1-benzazepine-4-carboxylate (0.25 g) as yellow oil.

reactant | methyl 7-[4-(2-butoxyethoxy)phenyl]-2,3-dihydro-1H-1-benzazepine-4-carboxylate | 0.2 g | C(CCC)OCCOC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCN2)C(=O)OC)C1 | C24H29NO4
reactant | tri(4-propoxyphenyl)bismuth diacetate | 1.1 g | C(C)(=O)O.C(C)(=O)O.C(CC)OC1=CC=C(C=C1)[Bi](C1=CC=C(C=C1)OCCC)C1=CC=C(C=C1)OCCC
reactant | hydrochloric acid | 3N | Cl | ClH
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | dichloromethane | 7 ml | ClCCl | CH2Cl2
catalyst | copper pivalate | 0.04 g | C(C(C)(C)C)(=O)[O-].[Cu+2].C(C(C)(C)C)(=O)[O-]
product | methyl 7-[4-(2-butoxyethoxy)phenyl]-1-(4-propoxyphenyl)-2,3-dihydro-1H-1-benzazepine-4-carboxylate | 0.25 g | C(CCC)OCCOC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCN2C2=CC=C(C=C2)OCCC)C(=O)OC)C1 | C33H39NO5
